US08809333B2
To a solution of ethyl (2R)-4-bromo-2-methyl-2-(methylsulfonyl)butanoate (4.5 g, 15.7 mmol, 1 eq) in DMSO (5 mL) was added sodium azide (1.02 g, 15.7 mmol, 1 eq). The mixture was heated at 80° C. for 3 h. The mixture was then diluted with EtOAc and washed with water. The organic layer was dried (MgSO4), filtered and concentrated to give ethyl (2R)-4-azido-2-methyl-2-(methylsulfonyl)butanoate which was used without further purification.

reactant | ethyl (2R)-4-bromo-2-methyl-2-(methylsulfonyl)butanoate | 15.7 mmol, 4.5 g, 1 eq | BrCC[C@](C(=O)OCC)(S(=O)(=O)C)C | C8H15BrO4S
reactant | sodium azide | 15.7 mmol, 1.02 g, 1 eq | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl (2R)-4-azido-2-methyl-2-(methylsulfonyl)butanoate | N(=[N+]=[N-])CC[C@](C(=O)OCC)(S(=O)(=O)C)C | C8H15N3O4S
